US04035512
In 20 ml. of 2N hydrochloric acid is dissolved 200 mg. of 6-hydroxy-5-hydroxymethyl-2-isopropylamino-3,4-dihydro-1(2H)-naphthalenone hydrochloride and with the addition of 100 mg. of 5 % palladium-on-carbon, the solution is agitated in hydrogen streams for 4 hours. After the hydrogen has ceased to be absorbed, the catalyst is filtered off and the filtrate is concentrated under reduced pressure and at a temperature not exceeding 40° C. The residue is then recrystallized from ethanol-ether. The procedure yields 1,6-dihydroxy-2-isopropylamino-5-methyl-1,2,3,4-tetrahydronaphthalene hydrochloride as colorless powders. Yield 152 mg.

reactant | hydrochloric acid | 2N | Cl | ClH
reactant | 6-hydroxy-5-hydroxymethyl-2-isopropylamino-3,4-dihydro-1(2H)-naphthalenone hydrochloride | Cl.OC=1C(=C2CCC(C(C2=CC1)=O)NC(C)C)CO
solvent | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
product | 1,6-dihydroxy-2-isopropylamino-5-methyl-1,2,3,4-tetrahydronaphthalene hydrochloride | Cl.OC1C(CCC2=C(C(=CC=C12)O)C)NC(C)C | InChI=1S/C14H21NO2.ClH/c1-8(2)15-12-6-4-10-9(3)13(16)7-5-11(10)14(12)17;/h5,7-8,12,14-17H,4,6H2,1-3H3;1H
